US08563541B2
Intermediate D-8: 2-(3,5-dichloropyridin-4-yl)imidazo[4,5-d]dipyrido[2,3-b: 3′,4′-f]azepin-3(8H)-ol
5H-Dipyrido[2,3-b:3′,4′-f]azepine-5,6(11H)-dione 6-oxime (0.100 g, 0.416 mmol, Intermediate D-7) ammonium acetate (0.60 g, 8.0 mmol), acetic acid (2 mL), water (0.2 mL) and 3,5-dichloroisonicotinaldehyde (0.293 g, 1.66 mmol) were combined in a capped vial and heated to 80° C. for 2 h. The mixture was cooled to room temperature, and diluted with aqueous NaHCO3 and brine. The mixture was extracted three times with ethyl acetate and the combined extracts were washed with brine, dried over MgSO4, filtered, and concentrated to provide the crude intermediate product as a dark oil which was used directly in the next step. LC/MS: 397, 399 (M+H)+.

reactant | 5H-Dipyrido[2,3-b:3′,4′-f]azepine-5,6(11H)-dione 6-oxime | 0.416 mmol, 0.100 g | N1=CC=CC2=C1NC1=C(C(C2=O)=NO)C=NC=C1 | C12H8N4O2
reactant | ammonium acetate | 8.0 mmol, 0.60 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | 3,5-dichloroisonicotinaldehyde | 1.66 mmol, 0.293 g | ClC1=C(C=O)C(=CN=C1)Cl | C6H3Cl2NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | brine | [Cl-].[Na+].O
solvent | water | 0.2 mL | O | H2O
product | 2-(3,5-dichloropyridin-4-yl)imidazo[4,5-d]dipyrido[2,3-b: 3′,4′-f]azepin-3(8H)-ol | ClC=1C=NC=C(C1C=1N(C2=C(C3=C(NC4=C2C=NC=C4)N=CC=C3)N1)O)Cl | C18H10Cl2N6O
